US08685969B2
2. (3-(1-(2-Fluorophenyl)-2-nitroethyl)-1H-indol-6-yl)(morpholino)methanone
A sealed tube containing (1H-indol-6-yl)(morpholino)methanone (0.6323 g, 2.75 mmol) and (E)-1-fluoro-2-(2-nitrovinyl)benzene (0.551 g, 3.30 mmol) in toluene (14 mL) was stirred at 150° C. for 4 days. The reaction was cooled and concentrated in vacuo to give a residue which was purified by flash chromatography using an ISCO 80 g column eluting with 0-100% EtOAc/hexanes. Appropriate fractions (100% elution) were collected and concentrated in vacuo to give the desired product (0.222 g, 0.508 mmol, 18.5% yield).

reactant | (1H-indol-6-yl)(morpholino)methanone | 2.75 mmol, 0.6323 g | N1C=CC2=CC=C(C=C12)C(=O)N1CCOCC1 | C13H14N2O2
reactant | (E)-1-fluoro-2-(2-nitrovinyl)benzene | 3.30 mmol, 0.551 g | FC1=C(C=CC=C1)\C=C\[N+](=O)[O-] | C8H6FNO2
solvent | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
product | (3-(1-(2-Fluorophenyl)-2-nitroethyl)-1H-indol-6-yl)(morpholino)methanone | 0.508 mmol, 0.222 g, 18.5% yield | FC1=C(C=CC=C1)C(C[N+](=O)[O-])C1=CNC2=CC(=CC=C12)C(=O)N1CCOCC1 | C21H20FN3O4
